US06576641B2
1-Butyl-4-piperidone:
A mixture of 8-butyl-1,4-dioxa-8-azaspiro[4,5]decane (27.8 g, 140 mmol) and hydrochloric acid (8 M, 350 ml) was refluxed for 15 h. The mixture was evaporated and sodium hydroxide (200 ml, 1 M) was added. The mixture was extracted twice with diethyl ether (150 ml). The crude product was purified by column chromaography using dichloromethane, methanol, aqueous ammonia (89:10:1). The pure product was isolated as an oil. Yield 10.5 g, 48%.

reactant | 8-butyl-1,4-dioxa-8-azaspiro[4,5]decane | 140 mmol, 27.8 g | C(CCC)N1CCC2(OCCO2)CC1 | C11H21NO2
solvent | hydrochloric acid | 8 M, 350 ml | Cl | ClH
product | 1-Butyl-4-piperidone | C(CCC)N1CCC(CC1)=O | C9H17NO
